US03980700
To a solution of 6.95 parts of hydroxylamine hydrochloride and 16.4 parts of sodium acetate dissolved in 80 parts by volume of 50% aqueous methanol is added a solution of 6.5 parts of 3-hydroxy-5-oxo-2-styrylcyclopent-1-eneheptanoic acid and 0.8 parts of sodium hydroxide in 30 parts by volume of 50% aqueous methanol. That mixture is allowed to stand for 48 hours. After that time, the reaction mixture is acidified with citric acid and filtered to yield crystals which, when recrystallized from 50 parts by volume of methanol, gives 3-hydroxy-5-hydroxyimino-2-styrylcyclopent-1-eneheptanoic acid. That compound melts at about 164° and displays, in methanol, an ultraviolet absorption spectrum with a peak at about 321 millimicrons with a molecular extinction coefficient of about 44,700. That compound is represented by the following structural formula ##SPC10##

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 3-hydroxy-5-oxo-2-styrylcyclopent-1-eneheptanoic acid | OC1C(=C(C(C1)=O)CCCCCCC(=O)O)C=CC1=CC=CC=C1 | C20H24O4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | methanol | CO | CH4O
product | 3-hydroxy-5-hydroxyimino-2-styrylcyclopent-1-eneheptanoic acid | OC1C(=C(C(C1)=NO)CCCCCCC(=O)O)C=CC1=CC=CC=C1 | C20H25NO4
